US05376684
Under argon, a solution of 221 g of diethoxymethylphosphinic acid ethyl ester in 1000 ml of tetrahydrofuran is added dropwise in the course of 3 hours to a suspension of 26.4 g of 99% sodium hydride in 1500 ml of tetrahydrofuran, the temperature being maintained at 20°-25°. The reaction is exothermic and is associated with the evolution of gas. The mixture is stirred for 2 hours at room temperature and the 177.1 g of bromomethylcyclohexane are added in the course of 20 minutes; the mixture is stirred at reflux for 24 hours, then cooled to 0°, and 200 ml of water are carefully added. The solvent is removed under reduced pressure and the residue is partitioned between dichloromethane and water. The organic phase is separated off, dried over sodium sulfate and concentrated by evaporation under reduced pressure. The oil that remains behind is distilled under reduced pressure and yields diethoxymethyl(cyclohexylmethyl)phosphinic acid ethyl ester having a boiling point of 85° (6×10-4 bar).

reactant | diethoxymethylphosphinic acid ethyl ester | 221 g | C(C)OP(=O)C(OCC)OCC | C7H17O4P
reactant | sodium hydride | 26.4 g | [H-].[Na+]
reactant | bromomethylcyclohexane | 177.1 g | BrCC1CCCCC1 | C7H13Br
reactant | water | 200 ml | O | H2O
solvent | tetrahydrofuran | 1000 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1500 ml | O1CCCC1 | C4H8O
product | diethoxymethyl(cyclohexylmethyl)phosphinic acid ethyl ester | C(C)OP(=O)(CC1CCCCC1)C(OCC)OCC | C14H29O4P
